US06057349
N-[6-chloro-3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)-2-methylphenyl]-methanesulfonamide hydrochloride was prepared from N-(6-chloro-3-cyanomethoxy-2-methylphenyl)-methanesulfonamide in a manner similar to that described in Example 1 for the preparation of N-[3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)phenyl] methanesulfonamide hydrochloride from (3-aminophenoxy)acetonitrile.

reactant | N-(6-chloro-3-cyanomethoxy-2-methylphenyl)-methanesulfonamide | ClC1=CC=C(C(=C1NS(=O)(=O)C)C)OCC#N | C10H11ClN2O3S
reactant | N-[3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)phenyl] methanesulfonamide hydrochloride | Cl.N1C(=NCC1)COC=1C=C(C=CC1)NS(=O)(=O)C
reactant | (3-aminophenoxy)acetonitrile | NC=1C=C(OCC#N)C=CC1 | C8H8N2O
product | N-[6-chloro-3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)-2-methylphenyl]-methanesulfonamide hydrochloride | Cl.ClC1=CC=C(C(=C1NS(=O)(=O)C)C)OCC=1NCCN1 | InChI=1S/C12H16ClN3O3S.ClH/c1-8-10(19-7-11-14-5-6-15-11)4-3-9(13)12(8)16-20(2,17)18;/h3-4,16H,5-7H2,1-2H3,(H,14,15);1H
